US07897597B2
7-(Furan-3-ylmethoxy)-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline (500 mg) was dissolved in 30 mL of dichloromethane and 3-chloroperoxybenzoic acid (60% pure, 403 mg) was added. The reaction was stirred for 30 minutes at ambient temperature and then 30 mL of aqueous ammonium hydroxide was added. After 10 minutes, p-toluenesulfonyl chloride (268 mg, 1.40 mmol) was added and the reaction was stirred for an additional 15 minutes. The layers were separated and the aqueous fraction was washed with two portions of dichloromethane (20 mL). The organic fractions were combined and washed three times with 20 mL portions of aqueous sodium carbonate. The combined sodium carbonate fractions were extracted with four portions of chloroform (20 mL). All of the organic fractions were combined, dried over magnesium sulfate, and concentrated to yield an orange foam. The crude product was purified using flash column chromatography on silica gel, eluting with a gradient of methanol in chloroform. The clean fractions were combined, concentrated, and the resulting solid was recrystallized from acetonitrile to give 102 mg of 7-(furan-3-ylmethoxy)-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine as a white powder, mp 181.0-183.0.

reactant | 7-(Furan-3-ylmethoxy)-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 500 mg | O1C=C(C=C1)COC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)C | C20H21N3O2
reactant | 3-chloroperoxybenzoic acid | 403 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 1.40 mmol, 268 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 7-(furan-3-ylmethoxy)-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 102 mg | O1C=C(C=C1)COC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)C | C20H22N4O2
